US08247415B2
Step A: N′-(3-bromopyridin-2-yl)acetohydrazide
To a solution of 0.800 g (3.38 mmol) of 2,3-dibromopyridine in 10 mL of anhydrous 1,4-dioxane was added 0.325 g (10.1 mmol) of anhydrous hydrazine and the resulting mixture was heated to 85° C. for 8 h. The reaction mixture was cooled to ambient temperature then evaporated to dryness in vacuo. The crude residue was dissolved in anhydrous dichloromethane and cooled to −78° C. in a dry ice acetone bath under an atmosphere of nitrogen. Next, 1.0 mL (6.8 mmol) of triethylamine was added followed by 0.210 g (2.72 mmol) of acetyl chloride. The resulting mixture was allowed to warm to ambient temperature over 20 min then all volatiles were removed in vacuo. The residue was suspended in 20 mL of water and extracted with ethyl acetate (3×10 mL). The combined extracts were washed with brine, dried over magnesium sulfate, filtered and evaporated to afford the title compound (0.18 g, 23%). LC-MS: m/z (ES) 230, 232 (MH)+ and 188, 190 (MH—COCH3)+.

reactant | 2,3-dibromopyridine | 3.38 mmol, 0.800 g | BrC1=NC=CC=C1Br | C5H3Br2N
reactant | hydrazine | 10.1 mmol, 0.325 g | NN | H4N2
reactant | triethylamine | 6.8 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 2.72 mmol, 0.210 g | C(C)(=O)Cl | C2H3ClO
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N′-(3-bromopyridin-2-yl)acetohydrazide | 0.18 g, 23% | BrC=1C(=NC=CC1)NNC(C)=O | C7H8BrN3O
